US07696249B2
1-(3-Fluoro-5-trifluoromethyl-phenyl)-3-(4-chloro-3-trifluoromethyl-phenyl)-urea
To a solution of 3-Fluoro-5-trifluoromethyl-aniline (940 mg, 5.25 mmol, 1.05 eq.) in dry THF (20 ml) was added 4-Chloro-3-(trifluoromethyl)-phenylisocyanate (1.11 g, 5.0 mmol) at rt and the mixture was stirred overnight. Then it was diluted with cHexane (100 ml), washed twice with 2 N HCl, once with sat. NaHCO3 and brine (100 ml each) and adsorbed on Celite in vacuo. Flash chromatography on silica with cHexane/TBME (5:1 to 3:1) yielded 687 mg pure product (34%) as a white powder.

reactant | 3-Fluoro-5-trifluoromethyl-aniline | 5.25 mmol, 940 mg, 1.05 eq. | FC=1C=C(N)C=C(C1)C(F)(F)F | C7H5F4N
reactant | 4-Chloro-3-(trifluoromethyl)-phenylisocyanate | 5.0 mmol, 1.11 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-(3-Fluoro-5-trifluoromethyl-phenyl)-3-(4-chloro-3-trifluoromethyl-phenyl)-urea | 687 mg, 34% | FC=1C=C(C=C(C1)C(F)(F)F)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C15H8ClF7N2O
